US03988510
Preparation of (Benzyl) (2-Methyl-3-Furyl) Sulfide
Into a 25 ml round bottom flask equipped with magnetic stirrer, thermometer, reflux condenser and heating mantle is placed a solution containing 0.27 g (0.005 moles) of sodium methoxide in 3 ml of absolute methanol. With stirring and while maintaining the temperature at 25° - 30° C, 0.57 g (0.005 moles) of 2-methyl-3-furan thiol in 3 ml absolute methanol is added. The reaction mass is stirred for a period of 10 minutes. 0.86 g of benzyl bromide dissolved in 2 ml absolute methanol is then added to the reaction mass with stirring at 25° C. The reaction mass is heated to reflux (50° - 60° C) and maintained at this temperature with stirring for a period of 4 hours. The reaction mass is then allowed to cool down to room temperature and is admixed with 10 ml of water with stirring. The reaction mass is neutralized to a pH of 5 - 6 with one drop of 10% hydrochloric acid and 5 ml hexane is added with stirring. The mass is then transferred to a separatory funnel and the organic and aqueous phases are separated. The aqueous phase is diluted with 5 ml water and extracted with 7 ml of n-hexane. The hexane extracts are combined, washed with 5 ml saturated sodium chloride, dried over anhydrous sodium sulfate, and gravity filtered. The resulting solution is then concentrated to an amber oil using rotary evaporation under a water aspirator vacuum. NMR, IR and Mass Spectral analyses confirm that the major product isolated by GLC trapping has the structure: ##SPC23##

reactant | sodium methoxide | 0.005 moles, 0.27 g | C[O-].[Na+]
reactant | 2-methyl-3-furan thiol | 0.005 moles, 0.57 g | CC=1OC=CC1S | C5H6OS
reactant | benzyl bromide | 0.86 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 10 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
catalyst | hydrochloric acid | one drop | Cl | ClH
solvent | hexane | 5 ml | CCCCCC | C6H14
product | (Benzyl) (2-Methyl-3-Furyl) Sulfide | CC=1OC=CC1SCC1=CC=CC=C1 | C12H12OS
